US05420298
Using an analogous procedure to that described in Example 6, 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with 1-(2,2-difluoroethyl)-3-(3,5-difluorophenyl)-3-methoxypyrrolidine hydrochloride to give 3-[5-fluoro-3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-1-(2,2-difluoroethyl)-3-methoxypyrrolidine as a gum in 51% yield.

reactant | 6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | SC=1C=C2CCC(N(C2=CC1)C)=O | C10H11NOS
reactant | 1-(2,2-difluoroethyl)-3-(3,5-difluorophenyl)-3-methoxypyrrolidine hydrochloride | Cl.FC(CN1CC(CC1)(OC)C1=CC(=CC(=C1)F)F)F
product | 3-[5-fluoro-3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-1-(2,2-difluoroethyl)-3-methoxypyrrolidine | 51% yield | FC=1C=C(C=C(C1)C1(CN(CC1)CC(F)F)OC)SC=1C=C2CCC(N(C2=CC1)C)=O | C23H25F3N2O2S
